US04510309
B. 3-Amino-4-{2-[(5-piperidinomethyl-2-furyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide
A solution of 2-[(5-piperidinomethyl-2-furyl)methylthio]ethylamine (4.0 g; 15.7 mmoles) [prepared according to the procedure described in Belgian Pat. No. 857,388 (U.S. Pat. No. 4,128,658)]in 25 ml of methanol was added all at once to a stirred suspension of 3-amino-4-methoxy-1,2,5-thiadiazole 1-oxide (2.31 g; 15.7 mmoles) [prepared in Step A]in 25 ml of methanol at ambient temperature. After stirring for 16 hours, the solution was evaporated under reduced pressure and the residue chromatographed by flash chromatography on 100 g of silica gel (230-400 mesh) using methanol-acetonitrile. The appropriate fractions were combined and evaporated to give 3.71 g of product. Recrystallization from 95% aqueous ethanol with charcoal treatment yielded the title compound, mp 161°-163°.

reactant | 2-[(5-piperidinomethyl-2-furyl)methylthio]ethylamine | 15.7 mmoles, 4.0 g | N1(CCCCC1)CC1=CC=C(O1)CSCCN | C13H22N2OS
reactant | 3-amino-4-methoxy-1,2,5-thiadiazole 1-oxide | 15.7 mmoles, 2.31 g | NC1=NS(N=C1OC)=O | C3H5N3O2S
solvent | methanol | 25 ml | CO | CH4O
product | 3-Amino-4-{2-[(5-piperidinomethyl-2-furyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide | 3.71 g | NC1=NS(N=C1NCCSCC=1OC(=CC1)CN1CCCCC1)=O | C15H23N5O2S2
